US08748012B2
A mixture solution of bis(3-bromophenyl)diphenylsilane (8.01 g, 16.21 mmol), 2-(3-(dibenzo[b,c]furan-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (3.00 g, 8.10 mmol), K2CO3 (2.240 g, 16.21 mmol), Pd(PPh3)4 (0.15 g, 0.162 mmol) in toluene (200 mL) and water (50 mL) was refluxed under nitrogen overnight. After cooling to room temperature, the organic phase was isolated and evaporated to dryness. The residue was purified by column chromatography on silica gel with hexane:DCM (9/1 to 3/1, v/v) as eluent to yield (3-bromophenyl)(3′-(dibenzo [b,d]furan-4-yl)-[1,1′-biphenyl]-3-yl)diphenylsilane (3.2 g, 60%) as a white solid.

reactant | bis(3-bromophenyl)diphenylsilane | 16.21 mmol, 8.01 g | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)Br | C24H18Br2Si
reactant | 2-(3-(dibenzo[b,c]furan-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 8.10 mmol, 3.00 g | C1C=CC(=C2OC=C3C21C=CC=C3)C=3C=C(C=CC3)B3OC(C(O3)(C)C)(C)C | C24H25BO3
reactant | K2CO3 | 16.21 mmol, 2.240 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.162 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-bromophenyl)(3′-(dibenzo [b,d]furan-4-yl)-[1,1′-biphenyl]-3-yl)diphenylsilane | 3.2 g, 60% | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C42H29BrOSi
